US04824468
2-(m-Trifluoromethylphenyl)-3-isopropylcarbonyl-5-ethyl-1,3-oxazolidine
Four and four-tenths grams of 2-(m-trifluoromethylphenyl)-5-ethyl-1,3-oxazolidine was combined with 1.5 g of pyridine in 25 ml of methylene chloride and 2.1 ml of isopropyl chloroformate in 10 ml of methylene chloride was added with stirring. The mixture was left to stir overnight. It was worked up with 50 ml of 5% NaOH and 200 ml of water, dried with anhydrous MgSO4 and stripped under vacuum on the rotary evaporator. The structure was confirmed by NMR and infrared spectroscopy.

reactant | 2-(m-trifluoromethylphenyl)-5-ethyl-1,3-oxazolidine | FC(C=1C=C(C=CC1)C1OC(CN1)CC)(F)F | C12H14F3NO
reactant | pyridine | 1.5 g | N1=CC=CC=C1 | C5H5N
reactant | NaOH | 50 ml | [OH-].[Na+]
reactant | water | 200 ml | O | H2O
reactant | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | isopropyl chloroformate | 2.1 ml | ClC(=O)OC(C)C | C4H7ClO2
product | 2-(m-Trifluoromethylphenyl)-3-isopropylcarbonyl-5-ethyl-1,3-oxazolidine | FC(C=1C=C(C=CC1)C1OC(CN1C(=O)C(C)C)CC)(F)F | C16H20F3NO2
